US04622401
2-[3-Amino-5-(p-chlorophenyl)-2-pyrazolin-1-yl]benzothiazole
A mixture of 3.28 g. of p-chlorocinnamonitrile, 50 ml. of absolute ethanol, 3.1 g. of 2-hydrazinobenzothiazole and 1.0 g. of 50% w/v choline in methanol is refluxed on a steam bath for 16 hours. The reaction mixture is cooled and the precipitate is collected by filtration. The solid is washed with ethanol to yield 3.2 g. of crude product. This material is recrystallized from acetone to give 1.65 g. of the product of the Example as yellow crystals, m.p. 273°-275° C.

reactant | p-chlorocinnamonitrile | ClC1=CC=C(C=CC#N)C=C1 | C9H6ClN
reactant | ethanol | C(C)O | C2H6O
reactant | 2-hydrazinobenzothiazole | N(N)C=1SC2=C(N1)C=CC=C2 | C7H7N3S
reactant | choline | OCC[N+](C)(C)C
solvent | methanol | CO | CH4O
product | 2-[3-Amino-5-(p-chlorophenyl)-2-pyrazolin-1-yl]benzothiazole | NC1=NN(C(C1)C1=CC=C(C=C1)Cl)C=1SC2=C(N1)C=CC=C2 | C16H13ClN4S
